*/////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  
*
*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal
*
*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com
*/////////////////////////////////////////
*LMC7225 CMOS Comparator Macro-Model
*/////////////////////////////////////////
*
* Connections          Non-nverting input
*                      |  Inverting input
*                      |  |  Output
*                      |  |  |  Positive power supply
*                      |  |  |  |  Negative power supply
*                      |  |  |  |  |
.SUBCKT LMC7225/NS     3  2  6  4  5
* Features:
* Open Drain Output
* Operates from single supply
* Greater than Rail-to-rail input common mode voltage range
* Wide supply range
* Rail-to-rail output swing
* Offset voltage (max)  = 6mV
* Low supply current =             .7uA
* High Output Drive Current 
********************************************
*
* CAUTION:  SET .OPTIONS GMIN=1E-16 TO  MODEL INPUT BIAS CURRENT.
*
*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  
*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal
*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com
*/////////////////////////////////////////
*LMC7225 CMOS Comparator Macro-Model
* CMOS Comparator with Open-Drain Output
*Rev:  7/29/96  ABG
*/////////////////////////////////////////
*----- Input Stage -----
RINB 2 18 1000
RINA 3 19 1000
DIN1 5 18 DMOD2
DIN2 18 4 DMOD2
DIN3 5 19 DMOD2
DIN4 19 4 DMOD2
FIN1 18 5 VTEMP 0.75
FIN2 19 5 VTEMP 1.25
CIN1 2 10 1e-12
CIN2 3 10 1e-12
RD1 18 11 5e+11  
RD2 19 11 5e+11  
RCM 11 10 9.975e+12
*----- Supply Current ------
EXX 10 5 17 5 1.0
EEE 10 50 17 5 1.0
ECC 40 10 4 17 1.0
RAA 4 17 100MEG
RBB 17 5 100MEG
RSLOPE 4 5 1e+12
GPWR 4 5 26 10 9.5e-7  
*----- VOS  -----
EOX 120 10 31 32 2.0
RCX 120 121 1K
RDX 121 10 1K
RBX 120 122 1K
*RAX 122 10 MRAX 1.003e3
RAX 122 10 MRAX 1.0105e3
.MODEL MRAX RES (TC1=4e-6)  
*----- delay stage -----
RX8 40 815 10K
RY8 815 50 5K
RBA8 815 50 5K
RBB8 815 811 1K
EIN8 810 811 3 2  -10   
EVOSS 814  811a 122 121  5  
V_F   811a  811  0
RCA8 40 812  0.1K  
RCB8 40 813   0.1K 
DDA8 812 813 DDEL1
DDB8 813 812 DDEL2
CDB8 813 812 10P
RCDB8 813 812 1MEG
* FSET8 809 50 VSENS1  0.5 
FSET8 809 50 VSENS1   10 
GSET8x   809  50   4    5    0.02e-3
****************
CCC 809 50 5P
QDN1 812 810 809 NPNX
QDN2 813 814 809 NPNX
.MODEL NPNX NPN (BF=100 RE=50)
.MODEL DDEL1 D ( RS=1  TT=50U N=0.7 )
.MODEL DDEL2 D ( RS=1  TT=50U N=0.7 )
GDM 10 57 812 813  0.1  
*----- Start-Up -----
ISET 10 24 1e-3
DA1 24 23 DMOD1
RBAL 23 22 1000
ESUPP 22 21 4 5 1.0
VOFF 21 10 -1.25
DA2 24 25 DMOD1
VSENS1 25 26 DC 0
RSET 26 10 1K
CSET 26 10 1e-10
*----- Temp. Coef. ----- 
FSET 10 31 VSENS1 1.0
RVOS 31 32 1K
RIB 32 33 MRIB 1K 
.MODEL MRIB RES (TC1=0.0029713)
RISC 33 34 MRISC 1K 
.MODEL MRISC RES (TC1=0)
R001 34 10 1K
*----- CMRR -----
ECMR 38 10 11 10 1.0
VCMX 38 39 DC 0
RCM2 41 10 1MEG
RCM1 39 41 1e6
CCM 41 10 1.59155e-10
*----- PSRR -----
EPSR 42 10 4 10 1.0
CDC1 43 42 10U
VPSX 43 44 DC 0
RPSR2 45 10 1MEG
RPSR1 44 45 1e6
CPSR 45 10 1.59155e-10
*----- IB Temp.Effects-----
FTEMP 10 27 VSENS1 1.0
ETEMP 27 28 32 33 0.632 
DTA 27 10 DMOD2
DTB 28 29 DMOD2
VTEMP 29 10 DC 0
*----- Out Current Sense & Set -----
FX 10 93 VOX 1.0
DFX1 93 91 DMOD1
VFX1 91 10 DC 0
DFX2 92 93 DMOD1
VFX2 10 92 DC 0
FPX 4 10 VFX1 1.0
FNX 10 5 VFX2 1.0
*----- Input CM Range Set  -----
DCX1 98 97 DMOD1
DCX2 95 94 DMOD1
RCX1 99 98 100
RCX2 94 99 100
VCXX 99 96 DC 0
ECMX 96 10 11 10 1.0
ECMP 40 97 26 10 -5e-1 
ECMN 95 50 26 10   0.1
*----- Gain - Stage -----
GOS 10 57 122 121 1.0
FCMR 10 57 VCMX 1000
FPSR 10 57 VPSX 1000
FCXX 57 10 VCXX 100
RDM 57 10 2091   
C2 57 10  6.59e-12   
DLIM1 52 57 DMOD1
DLIM2 57 51 DMOD1
ELIMP 51 10 26 10 99.3
ELIMN 10 52 26 10 4.16e2 
G2 58 10 57 10 6e-6  
R2 58 10 79.7  
GO2 59 10 58 10 1e4 
RO2 59 10 1K
DCLMP2 59 40 DMOD1
DCLMP1 50 59 DMOD1
*----- Output Stage -----
GO3 10 71 59 10 1
RO3 71 10  5
*RDN2 710 71 100
RDP 720 72 100
*DDN1 73 74 DMOD1
*DDN2 73 710 DMOD1
*RNO 78 81 1
RPO 79 81 1
DDP1 75 72 DMOD1
DDP2 71 720 DMOD1
C1 58 59 1e-10
*VOOP 40 76 DC 0
VOON 77 50 DC 0
*QNO 76 73 78 NPN1
QNP 77 72 79 PNP1
*****************
MN1  79  350  77  77  MNMOD
E_MN1  350  77  10  71  1.0
** MP1  78 360 76  76 MPMOD
** E_MP1    76  360  71  10  1.0
*****************
VOX 86 6 DC 0
*RNT 76 81 100MEG
RPT 81 77 1MEG
*EPOS 40 74 26 10 0.0
ENEG 75 50 26 10 0.0 
*GSOURCE 74 73 33 34  0 
GSINK 72 75 33 34  3.5e-4  
ROO 81 86  30 
.MODEL DMOD1 D
.MODEL DMOD2 D (IS=1e-17)
.MODEL NPN1 NPN (BF=0 IS=1e-15)
.MODEL PNP1 PNP (BF=100 IS=1e-15)
.MODEL MNMOD  NMOS  VTO=0.5  W=40u  L=1u
.MODEL MPMOD PMOS  VTO=-0.5  W=40u  L=1u
RA 73 40 10e6
RB 72 50 10e6
RC 72 73 10e6
RD 10 57 10e6
RE 24 10 10e6
RF 93 10 10e6
E_TEST   100a   5   814  810   1.0
R_TEST  100a   5    1K
*
.ENDS  LMC7225
*$
